US04386081
(d) Dimethyl 2-adamantoxycarbonylphosphonate
From 1.5 g (12 mmole) of trimethylphosphite and 2.0 g (9.3 mmole) of 2-adamantyl chloroformate. (100°-110° C., 2 hrs). Yield 1.0 g (37%). Bp0.3 160° C.

reactant | trimethylphosphite | 12 mmole, 1.5 g | COP(OC)OC | C3H9O3P
reactant | 2-adamantyl chloroformate | 9.3 mmole, 2.0 g | ClC(=O)OC1C2CC3CC(CC1C3)C2 | C11H15ClO2
product | Dimethyl 2-adamantoxycarbonylphosphonate | C12C(C3CC(CC(C1)C3)C2)OC(=O)P(OC)(OC)=O | C13H21O5P
